US04719200
L-alanyl-L-prolyl-L-proline benzylester hydrochloride (2.46 g, 6 m mole) was dissolved in dimethylformamide (10 ml, and triethylamine (0.84 ml, 6m mole) was added thereto under cooling to neutralize it and then benzyloxycarbonyl-L-pyroglutamic acid N-hydroxysuccinimide ester (2.38 g, 6.6 m mole) was added thereto. The mixture was stirred for 2 days while the solution had been adjusted to a pH of about 7 with triethylamine and then ethyl acetate (150 ml) was added thereto. The solution was washed with 1N hydrochloric acid, 5% aqueous sodium bicarbonate and water in order. The ethyl acetate layer was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. To the thus obtained residue, n-hexane was added to form a powder. This powder was purified by column chromatography. (Silica gel, developing solvent; chloroform:ethanol:ethyl acetate=5:1:5). The fractions of the main ingredient were collected together and then concentrated. To the residue, n-hexane was added to precipitate the powder. They were dissolved in methanol (50 ml) and then hydrogen gas passed through the solution in the presence of palladium-carbon as a catalyst for 4 hours. The catalyst was separated by filtration and the solvent was distilled off. The thus obtained residue was recrystallized with methanol-ether to give L-pyroglutamyl-L-alanyl-L-prolyl-L-proline (880 mg).

reactant | L-alanyl-L-prolyl-L-proline benzylester hydrochloride | 2.46 g | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](N)C)=O)=O)=O
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.84 ml | C(C)N(CC)CC | C6H15N
product | L-pyroglutamyl-L-alanyl-L-prolyl-L-proline | 880 mg | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C18H26N4O6
